US06130239
A suspension of 1,3-dihydro-1-hydroxy-4-iodo-2H-indol-2-one, (2.43 g, 9 mmol) (see below) in dry dichloromethane (500 mL) was cooled to -25° C. under an argon atmosphere with magnetic stirring. A solution of (diethylamino)sulfur trifluoride (DAST, 1.35 mL) (Aldrich) in dry dichloromethane (40 mL) was added dropwise at such a rate that the reaction temperature did not rise above -25° C. (about 15 min.). After stirring for an additional 30 min. at -25° C., the reaction was quenched by the addition of saturated aqueous sodium bicarbonate solution (180 mL) and allowed to warm to room temperature. The mixture was then filtered through Celite® (Fisher Scientific) and the layers separated. The aqueous layer was extracted with dichloromethane (2×300 mL). The dichloromethane layers were washed with saturated aqueous sodium chloride solution (200 mL), combined, dried (magnesium sulfate) and concentrated. Residue was purified by flash chromatography on silics gel using ethyl acetate-dichloromethane (1:7, V/V) as solvent to give 1,3-dihydro-5-fluoro-4-iodo-2H-indol-2-one. (Yield 1.08 g, 43%).

reactant | 1,3-dihydro-1-hydroxy-4-iodo-2H-indol-2-one | 9 mmol, 2.43 g | ON1C(CC2=C(C=CC=C12)I)=O | C8H6INO2
reactant | (diethylamino)sulfur trifluoride | 1.35 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1,3-dihydro-5-fluoro-4-iodo-2H-indol-2-one | FC=1C(=C2CC(NC2=CC1)=O)I | C8H5FINO
